US07323475B2
a) (1,3-Dioxo-1,3-dihydro-benzo[f]isoindol-2-yl)-acetic acid ethyl ester
2 g (10.1 mmol) Benzo[f]isoindole-1,3-dione was reacted with bromoacetic acid ethyl ester analogously to Example D-21a. The crude product obtained was partitioned between ethyl acetate and water. Organic layer was washed with brine, dried over magnesium sulfate, filtered, and evaporated to give 2.68 g (9.5 mmol) of product. 1H NMR (200 MHz, CDCl3) δ 8.36 (s, 2H), 8.05 (m, 2H), 7.68 (m, 2H), 4.49 (s, 2H), 4.22 (q, J=7.0 Hz, 2H), 1.29 (t, 7.0 Hz, 3H).

reactant | Benzo[f]isoindole-1,3-dione | 10.1 mmol, 2 g | C1(NC(C=2C=C3C(=CC12)C=CC=C3)=O)=O | C12H7NO2
reactant | bromoacetic acid ethyl ester | C(C)OC(CBr)=O | C4H7BrO2
product | (1,3-Dioxo-1,3-dihydro-benzo[f]isoindol-2-yl)-acetic acid ethyl ester | 9.5 mmol, 2.68 g | C(C)OC(CN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)=O | C16H13NO4
